US09290476B2
N-Methoxy-N,3-dimethyl-4-nitrobenzamide
Triethylamine (7.6 mL, 54.651 mmol) was added slowly to a mixture of 3-methyl-4-nitrobenzoic acid (5 g, 27.326 mmol), N,O-dimethylhydroxylamine hydrochloride (2.99 g, 30.058 mmol), and EDCI (6.28 g, 32.791 mmol) in DCM (30 mL). The mixture was stirred at room temperature overnight, quenched with saturated aqueous NaHCO3 and stirred at room temperature for 30 minutes. Water (50 mL) was added followed by additional DCM. The mixture was stirred for 10 minutes and layers were separated. The aqueous layer was again extracted with DCM. The combined organic layer was dried over Na2SO4, then filtered. The solvent was removed and the residual oil chromatographed (DCM/EtOAc) to provide the product as a white solid.

reactant | Triethylamine | 54.651 mmol, 7.6 mL | C(C)N(CC)CC | C6H15N
reactant | 3-methyl-4-nitrobenzoic acid | 27.326 mmol, 5 g | CC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 30.058 mmol, 2.99 g | Cl.CNOC
reactant | EDCI | 32.791 mmol, 6.28 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | N-Methoxy-N,3-dimethyl-4-nitrobenzamide | CON(C(C1=CC(=C(C=C1)[N+](=O)[O-])C)=O)C | C10H12N2O4
